US09062070B2
A mixture of 4-bromo-2-fluoro-3-methylbenzonitrile (7.00 g, 32.7 mmol), potassium vinyltrifluoroborate (5.3 g, 39 mmol) and Pd(dppf)Cl2 (0.5 g, 0.7 mmol) in 70 mL of EtOH and 30 mL of TEA was refluxed under Ar for 4 hours. Concentrated, the residue was purified by column chromatography (petrol ether:EtOAc=10:1) to afford 4-ethenyl-2-fluoro-3-methylbenzonitrile.

reactant | 4-bromo-2-fluoro-3-methylbenzonitrile | 32.7 mmol, 7.00 g | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
reactant | potassium vinyltrifluoroborate | 39 mmol, 5.3 g | C(=C)[B-](F)(F)F.[K+]
solvent | EtOH | 70 mL | CCO | C2H6O
catalyst | Pd(dppf)Cl2 | 0.7 mmol, 0.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-ethenyl-2-fluoro-3-methylbenzonitrile | C(=C)C1=C(C(=C(C#N)C=C1)F)C | C10H8FN
